US04925879
A solution of 1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan-2-one in the form in the from of its free base (4 g prepared as described in Example 49) in industrial methylated spirit (18 ml) was added dropwise to a stirred suspension of sodium borohydride (0.7 g) in industrial methylated spirit (40 ml) and the mixture was stirred for 16 hours. Sodium borohydride (0.7 g) was added and the mixture heated under reflux for 3 hours. After cooling the mixture was poured into water and acidified with concentrated sulphuric acid. 5N Sodium hydroxide solution was added with cooling and the basic aqueous liquors were extracted with ether. The extracts were washed with water and dried and the solvent was removed by evaporation to leave an oil which was converted into a hydrochloride salt by treatment with a mixture of excess concentrated hydrochloric acid and propan-2-ol. The residue was dried by azeotropic distillation with propan-2-ol to give 1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan- 2-ol hydrochloride (m.p. 229°-231° C.).

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan-2-one | ClC1=CC=C(C=C1)C1(CCC1)C(C(C(C)C)=O)N(C)C | C17H24ClNO
reactant | sodium borohydride | 0.7 g | [BH4-].[Na+]
reactant | Sodium borohydride | 0.7 g | [BH4-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Sodium hydroxide | 5N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | propan-2-ol | CC(C)O | C3H8O
solvent | water | O | H2O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-1-dimethylamino-3-methylbutan- 2-ol hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C(C(C(C)C)O)N(C)C | InChI=1S/C17H26ClNO.ClH/c1-12(2)15(20)16(19(3)4)17(10-5-11-17)13-6-8-14(18)9-7-13;/h6-9,12,15-16,20H,5,10-11H2,1-4H3;1H
